US08198387B2
In a 500-ml eggplant-shaped flask were placed 77.8 millimoles of N,N′-dibutyl-6-chloro-[1,3,5]triazine-2,4-diamine, 100 ml of dimethylacetamide, 233.5 millimoles of diisopropylethylamine, and 155.6 millimoles of ethanolamine and the mixture was heated at 160° C. with stirring. After 1.5 hours, the mixture was cooled to room temperature and the solvent was distilled off. A white precipitate in the residue was filtered and the filtrate was purified by silica gel column chromatography to give N,N′-dibutyl-N″-hydroxyethyl-[1,3,5]triazine-2,4,6-triamine.

reactant | N,N′-dibutyl-6-chloro-[1,3,5]triazine-2,4-diamine | 77.8 millimoles | C(CCC)NC1=NC(=NC(=N1)NCCCC)Cl | C11H20ClN5
reactant | diisopropylethylamine | 233.5 millimoles | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethanolamine | 155.6 millimoles | C(O)CN | C2H7NO
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
product | N,N′-dibutyl-N″-hydroxyethyl-[1,3,5]triazine-2,4,6-triamine | C(CCC)NC1=NC(=NC(=N1)NCCCC)NCCO | C13H26N6O
